* D:\___Studia___\_PracaInzynierska_\BScThesis\Project\Desktop\save\save.asc
V1 N002 0 12
res0id0 N001 N002 1
D§led0id1 0 N001 1
.model D D
.lib C:\Users\barte\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10
.backanno
.end
