* D:\___Studia___\_PracaInzynierska_\BScThesis\Project\Desktop\save\save.asc
V1 NC_01 0 12
res0id0 NC_02 NC_03 1
D§led0id1 NC_04 NC_05 1
.model D D
.lib C:\Users\barte\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 10
.backanno
.end
